US07115607B2
2-{4-[(2R)-2-({(3S)-2-[(tert-Butyl)oxycarbonyl](3-1,2,3,4-tetrahydroisoquinolyl)}carbonylamino)-3-(4-chlorophenyl)propanoyl]piperazinyl}benzoic acid
To a 150 mL round-bottomed flask equipped with magnetic stirring was added methyl 2-{4-[(2R)-2-({(3S)-2-[(tert-butyl)oxycarbonyl](3-1,2,3,4-tetrahydroisoquinolyl)}carbonylamino)-3-(4-chlorophenyl)propanoyl]piperazinyl}benzoate (1.6 g, 2.4 mmol) in THF (30 mL). A soln of LiOH (Aldrich) (303 mg, 7.14 mmol) in H2O (ca. 10 mL) was added and the reaction was heated at 60° C. for 12 h. After cooling to RT, the mixture was concentrated in vacuo and diluted with EtOAc (100 mL). A 10% soln of citric acid (25 mL) was added, the organic layer was separated, and the aqueous layer was extracted with EtOAc (2×25 mL). The organic layers were combined, washed with H2O, and brine, dried over Na2SO4, filtered and concentrated in vacuo to afford the title compound as a white solid (960 mg). MS (ESI, pos. ion) m/z: 647 (M+H). Calc'd for C35H39ClN4O6: 646.26.

reactant | methyl 2-{4-[(2R)-2-({(3S)-2-[(tert-butyl)oxycarbonyl](3-1,2,3,4-tetrahydroisoquinolyl)}carbonylamino)-3-(4-chlorophenyl)propanoyl]piperazinyl}benzoate | 2.4 mmol, 1.6 g | C(C)(C)(C)OC(=O)N1CC2=CC=CC=C2C[C@H]1C(=O)N[C@@H](C(=O)N1CCN(CC1)C1=C(C(=O)OC)C=CC=C1)CC1=CC=C(C=C1)Cl | C36H41ClN4O6
reactant | LiOH | 7.14 mmol, 303 mg | [Li+].[OH-]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | H2O | ca. 10 mL | O | H2O
product | 2-{4-[(2R)-2-({(3S)-2-[(tert-Butyl)oxycarbonyl](3-1,2,3,4-tetrahydroisoquinolyl)}carbonylamino)-3-(4-chlorophenyl)propanoyl]piperazinyl}benzoic acid | 960 mg | C(C)(C)(C)OC(=O)N1CC2=CC=CC=C2C[C@H]1C(=O)N[C@@H](C(=O)N1CCN(CC1)C1=C(C(=O)O)C=CC=C1)CC1=CC=C(C=C1)Cl | C35H39ClN4O6
